US04886814
(a) N-[2-(4-Hydroxyphenyl)-1-methylethyl]-2-(2-trifluoromethylthiazol-4-yl)morpholine
Prepared by analogy to Example 22 by reaction of 2-trifluoromethyl-4-bromoacetyl-thiazole with N-[2-(4-hydroxyphenyl)-1-methylethyl]-2-hydroxyethanamine followed by purification of the base on a silica gel column using chloroform/ethyl acetate=3:1 as eluant.

reactant | 2-trifluoromethyl-4-bromoacetyl-thiazole | FC(C=1SC=C(N1)C(CBr)=O)(F)F | C6H3BrF3NOS
reactant | N-[2-(4-hydroxyphenyl)-1-methylethyl]-2-hydroxyethanamine | OC1=CC=C(C=C1)CC(C)NCCO | C11H17NO2
product | N-[2-(4-Hydroxyphenyl)-1-methylethyl]-2-(2-trifluoromethylthiazol-4-yl)morpholine | OC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C17H19F3N2O2S
